US07700633B2
B. 3-Ethyl-7-methoxy-1,2-dihydronaphthalene
To a solution of 2-ethyl-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (6.10 g, 29.9 mmol) in MeOH (70 mL) at 0° C. is added NaBH4 slowly and the mixture is stirred at RT for 30 min. Then 2M HCl solution (200 mL) is added and the mixture is stirred for 10 min before it is extracted with EtOAc and concentrated. The residue is purified to give the title compound as a clear oil: (M+H)+=189.

reactant | 2-ethyl-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 29.9 mmol, 6.10 g | C(C)C1C(C2=CC=C(C=C2CC1)OC)=O | C13H16O2
reactant | NaBH4 | [BH4-].[Na+]
reactant | HCl | 2M, 200 mL | Cl | ClH
solvent | MeOH | 70 mL | CO | CH4O
product | 3-Ethyl-7-methoxy-1,2-dihydronaphthalene | C(C)C=1CCC2=CC(=CC=C2C1)OC | C13H16O
